*  Generated for: PrimeSim
*  Design library name: group8
*  Design cell name: Write_Driver_tb
*  Design view name: schematic
.option search='/mnt/designkits/ncsu/FreePDK3/hspice/models'


.option PARHIER = LOCAL
.option PORT_VOLTAGE_SCALE_TO_2X = 1
.option S_ELEM_CACHE_DIR = "/mnt/ncsudrive/s/svkolach/.synopsys_custom/sparam_dir"
.option PVA_OUTPUT_DIR = "/mnt/ncsudrive/s/svkolach/.synopsys_custom/pva_dir"

.option WDF=1
.temp 25
.lib 'fet.mod' nfet_typ
.lib 'fet.mod' pfet_typ

*PrimeWave Design Environment Based on Custom Infrastructure
*Version W-2024.09-SP1-2
*Sat Apr  5 16:43:53 2025

.global gnd! vdd!
********************************************************************************
* Library          : group8
* Cell             : Write_Driver
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt write_driver din wbdata wdata
m18 net33 din vdd! pfet nfin=4 adeo=1.134e-15 aseo=1.134e-15 pdeo=2.34e-07 pseo=2.34e-07
m13 net26 din vdd! pfet nfin=4 adeo=1.134e-15 aseo=1.134e-15 pdeo=2.34e-07 pseo=2.34e-07
m12 net25 net26 vdd! pfet nfin=8 adeo=2.268e-15 aseo=2.268e-15 pdeo=4.68e-07
+ pseo=4.68e-07
m17 net32 net33 vdd! pfet nfin=8 adeo=2.268e-15 aseo=2.268e-15 pdeo=4.68e-07
+ pseo=4.68e-07
m16 wbdata net32 vdd! pfet nfin=16 adeo=4.536e-15 aseo=4.536e-15 pdeo=9.36e-07
+ pseo=9.36e-07
m1 wdata net35 vdd! pfet nfin=16 adeo=4.536e-15 aseo=4.536e-15 pdeo=9.36e-07
+ pseo=9.36e-07
m0 net35 net25 vdd! pfet nfin=16 adeo=4.536e-15 aseo=4.536e-15 pdeo=9.36e-07
+ pseo=9.36e-07
m21 net33 din gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m20 net32 net33 gnd! nfet nfin=4 adeo=1.134e-15 aseo=1.134e-15 pdeo=2.34e-07
+ pseo=2.34e-07
m19 wbdata net32 gnd! nfet nfin=8 adeo=2.268e-15 aseo=2.268e-15 pdeo=4.68e-07
+ pseo=4.68e-07
m15 net26 din gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m14 net25 net26 gnd! nfet nfin=4 adeo=1.134e-15 aseo=1.134e-15 pdeo=2.34e-07
+ pseo=2.34e-07
m5 wdata net35 gnd! nfet nfin=8 adeo=2.268e-15 aseo=2.268e-15 pdeo=4.68e-07
+ pseo=4.68e-07
m4 net35 net25 gnd! nfet nfin=8 adeo=2.268e-15 aseo=2.268e-15 pdeo=4.68e-07
+ pseo=4.68e-07
.ends write_driver

********************************************************************************
* Library          : group8
* Cell             : Write_Driver_tb
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
xi0 net3 datab data write_driver
v2 vdd! gnd! dc=0.8
v4 net3 gnd! dc=0 pulse ( 0.8 0 0 5p 5p 45p 100p )









.tran 0.1p 300p start=0
.option opfile=1 split_dp=1
.option probe=1
.probe tran v(*) level=1
.probe tran v(data) v(datab) v(net3)








.end
