*  Generated for: PrimeSim
*  Design library name: group8
*  Design cell name: inv_highdrive
*  Design view name: schematic
.option search='/mnt/designkits/ncsu/FreePDK3/hspice/models'


.option PARHIER = LOCAL
.option PORT_VOLTAGE_SCALE_TO_2X = 1
.option S_ELEM_CACHE_DIR = "/mnt/ncsudrive/s/svkolach/.synopsys_custom/sparam_dir"
.option PVA_OUTPUT_DIR = "/mnt/ncsudrive/s/svkolach/.synopsys_custom/pva_dir"

.option WDF=1
.temp 25
.lib 'fet.mod' nfet_typ
.lib 'fet.mod' pfet_typ

*PrimeWave Design Environment Based on Custom Infrastructure
*Version W-2024.09-SP1-2
*Thu Apr  3 13:27:19 2025

.global gnd! vdd!
********************************************************************************
* Library          : group8
* Cell             : inv_highdrive
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
m4 net9 in vdd! pfet nfin=20 adeo=5.67e-15 aseo=5.67e-15 pdeo=1.17e-06 pseo=1.17e-06
m0 out net9 vdd! pfet nfin=20 adeo=5.67e-15 aseo=5.67e-15 pdeo=1.17e-06 pseo=1.17e-06
m5 net9 in gnd! nfet nfin=20 adeo=5.67e-15 aseo=5.67e-15 pdeo=1.17e-06 pseo=1.17e-06
m1 out net9 gnd! nfet nfin=20 adeo=5.67e-15 aseo=5.67e-15 pdeo=1.17e-06 pseo=1.17e-06
v8 in gnd! dc=0 pulse ( 0.8 0 10p 5p 5p 45p 100p )
v17 vdd! gnd! dc=0.8









.tran 0.1p 200p start=0
.option opfile=1 split_dp=1
.option probe=1
.probe tran v(*) level=1
.probe tran v(in) v(net9) v(out)








.end
